US08975415B2
Under ice cooling, to a solution of N-{[6-bromo-4-(1,1-difluoro-2-hydroxyethyl)-4H spiro[chromene-3,1′-cyclopropan]-4-yl]carbamothioyl}benzamide (340 mg, 0.684 mmol) in CH2Cl2 (9 mL) was added 1-chloro-N,N,2-trimethylprop-1-en-1-amine (206 mg, 1.54 mmol), and the mixture was stirred for 17 hours at room temperature. Ice was added and the mixture was neutralized by 10% aqueous K2CO3 and extracted with CH2Cl2. The organic layer was washed with brine and dried over MgSO4 and concentrated. The residue was purified by silica gel chromatography (EtOAc/hexane=1:99-40:60) to afford N-(6′-bromo-5″,5″-difluoro-5″,6″-dihydrodispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]thiazin]-2″-yl)benzamide (198 mg).

reactant | N-{[6-bromo-4-(1,1-difluoro-2-hydroxyethyl)-4H spiro[chromene-3,1′-cyclopropan]-4-yl]carbamothioyl}benzamide | 0.684 mmol, 340 mg | BrC=1C=C2C(C3(CC3)COC2=CC1)(C(CO)(F)F)NC(=S)NC(C1=CC=CC=C1)=O | C21H19BrF2N2O3S
reactant | 1-chloro-N,N,2-trimethylprop-1-en-1-amine | 1.54 mmol, 206 mg | ClC(=C(C)C)N(C)C | C6H12ClN
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | 9 mL | C(Cl)Cl | CH2Cl2
product | N-(6′-bromo-5″,5″-difluoro-5″,6″-dihydrodispiro[cyclopropane-1,3′-chromene-4′,4″-[1,3]thiazin]-2″-yl)benzamide | 198 mg | BrC=1C=C2C(=CC1)OCC1(CC1)C21N=C(SCC1(F)F)NC(C1=CC=CC=C1)=O | C21H17BrF2N2O2S
